US07851622B2
A mixture of ethyl 5-(4-chlorophenyl)thiophene-2-carboxylate (1.05 g, 3.94 mmol), methanol (40 ml) and 1.0 M aq NaOH (15.75 ml, 15.75 mmol) was stirred at reflux for 6 hours. Upon cooling to RT, the reaction was acidified to pH 3 with conc. HCl and extracted with EtOAc (60 ml). The EtOAc layer was dried over Na2SO4 and concentrated to yield 5-(4-chlorophenyl)thiophene-2-carboxylic acid (902 mg, 3.78 mmol, 96% yield) as an off-white solid. LC MS at t=2.44 min. (m+H=240) Phenomenex S5 C18 4.6×30 mm column/water-MeOH-TFA 90:10:0.1 to 10:90:0.1 gradient over 2 min at 5 mL/min with 1 min hold at the end of the gradient. 1H NMR (400 MHz, DMSO) δ ppm 7.36-7.97 (m, 6H), 13.19 (s, 1H).

reactant | ethyl 5-(4-chlorophenyl)thiophene-2-carboxylate | 3.94 mmol, 1.05 g | ClC1=CC=C(C=C1)C1=CC=C(S1)C(=O)OCC | C13H11ClO2S
reactant | NaOH | 15.75 mmol, 1.0 M, 15.75 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | 5-(4-chlorophenyl)thiophene-2-carboxylic acid | 3.78 mmol, 902 mg, 96% yield | ClC1=CC=C(C=C1)C1=CC=C(S1)C(=O)O | C11H7ClO2S
